US09193693B2
A solution of methyl 2-phenyl-3-(4-phenylpiperazin-1-yl)quinoxaline-6-carboxylate (100 mg, 0.24 mmol, 1.00 equiv) and sodium hydroxide (47 mg, 1.18 mmol, 5.00 equiv) in methanol (10 mL) was placed in a 100-mL round bottom flask and stirred for 2 h at 50° C. in an oil bath. The pH value of the solution was adjusted to 4-5 with hydrochloric acid (1 M). The resulting solution was extracted with 3×10 mL of dichloromethane, and the organic layers combined and concentrated under vacuum, yielding 70 mg (72%) of 2-phenyl-3-(4-phenylpiperazin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-phenyl-3-(4-phenylpiperazin-1-yl)quinoxaline-6-carboxylate | 0.24 mmol, 100 mg, 1.00 equiv | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)C1=CC=CC=C1)C(=O)OC | C26H24N4O2
reactant | sodium hydroxide | 1.18 mmol, 47 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2-phenyl-3-(4-phenylpiperazin-1-yl)quinoxaline-6-carboxylic acid | 70 mg, 72% | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)C1=CC=CC=C1)C(=O)O | C25H22N4O2
